US07279580B2
A suspension of 2-bromo-5-fluorobenzonitrile (30.0 g, 150 mmol), bis(pinacolato)diboron (41.9 g, 165 mmol) and potassium acetate (29.4 g, 300 mmol) in 1,4-dioxane (375 ml) and DMSO (30 ml) was degassed with nitrogen for 1 h. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloromethane adduct (3.7 g, 4.5 mmol) was added and the mixture heated at 90° C. for 18 h. The mixture was allowed to cool to ambient temperature then diluted with diethyl ether (300 ml) and filtered through a glass microfibre filter paper. The solvent was evaporated and the residue was treated with ice-cold 2N sodium hydroxide solution (250 ml) and the mixture left to stir for 15 min. The aqueous phase was extracted with diethyl ether (200 ml). The pH of the aqueous was adjusted to 5 by the addition of concentrated hydrochloric acid. The aqueous phase was extracted with diethyl ether (2×200 ml), the organic phase was combined, washed with water (150 ml) and brine (150 ml), dried over anhydrous sodium sulphate, filtered and evaporated to give 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (36.5 g, 98%) as a brown oil which crystallised on standing: δH (360 MHz, CDCl3) 1.38 (12H, s), 7.25-7.30 (1H, m), 7.40 (1H, dd, J 3 and 8), 7.91 (1H, dd, J 6 and 8).

reactant | 2-bromo-5-fluorobenzonitrile | 150 mmol, 30.0 g | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
reactant | bis(pinacolato)diboron | 165 mmol, 41.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 300 mmol, 29.4 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 375 ml | O1CCOCC1 | C4H8O2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloromethane adduct | 4.5 mmol, 3.7 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 36.5 g, 98% | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
